US06667333B2
2-[2-Methyl-3-(2-oxa-3-azabicyclo[3.1.0]hex-3-en-4-yl)-4-methyl sulfonylbenzoyl]-1-hydroxy-4,6-dimethylcyclohex-1-en-3-one (compound 2.3)
At room temperature, 0.27 g (2.4 mmol) of potassium tert-butoxide is added to a solution of 0.36 g (0.8 mmol) of 2-[2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl sulfonylbenzoyl]-1-hydroxy-4,6-dimethylcyclohex-1-en-3-one in 4 ml of dimethyl sulfoxide, and the mixture was stirred for 12 hours. The reaction mixture was then introduced into 300 ml of 3% strength hydrochloric acid. Following extraction with ethyl acetate, the combined organic phases were washed with water and dried, and the solvent was removed. This gave 0.21 g (63% of theory) of the title compound of melting point 90-96° C. 1H-NMR (δ in ppm): δ=1.0-1.6 (m, 10H), 2.18 (s, 3H), 2.4-2.5 (m, 2H), 2.77 (m, 1H), 3.20 (s, 3H), 5.18 (s, 1H), 7.31 (d, 1H), 8.02 (d, 1H).

reactant | potassium tert-butoxide | 2.4 mmol, 0.27 g | CC(C)([O-])C.[K+]
reactant | 2-[2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl sulfonylbenzoyl]-1-hydroxy-4,6-dimethylcyclohex-1-en-3-one | 0.8 mmol, 0.36 g | CC=1C(C(=O)C2=C(C(CC(C2=O)C)C)O)=CC(C(C1C1=NOC(C1)CCl)C)=S(=O)=O | C21H24ClNO6S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 2-[2-Methyl-3-(2-oxa-3-azabicyclo[3.1.0]hex-3-en-4-yl)-4-methyl sulfonylbenzoyl]-1-hydroxy-4,6-dimethylcyclohex-1-en-3-one | CC=1C(C(=O)C2=C(C(CC(C2=O)C)C)O)=CC(C(C1C1=NOC2CC12)C)=S(=O)=O | C21H23NO6S
